US07220744B2
a) 4-(Dimethylaminomethylene-thiocarbamoyl)-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 122 mmol N,N-dimethylformamide dimethyl acetal and 6.11 mmol 4-thiocarbamoyl-piperazine-1-carboxylic acid tert-butyl ester (prepared from tert-butyl 1-piperazinecarboxylate, 1,1′-thiocarbonyldiimidazole and ammonia according to the procedure of J. Med. Chem. 1998, 41, 5037–5054) was heated at 110° C. for 3 h. The reaction mixture was then concentrated in vacuo and the residue was resuspended in ethyl acetate/tetrahydrofuran (1:1) and washed with brine. The organic phase was dried over sodium sulphate and concentrated in vacuo to afford the title compound as a light yellow crystalline solid (yield 95%). MS (m/e): 301.4 (M+H+, 100%).

reactant | N,N-dimethylformamide dimethyl acetal | 122 mmol | COC(N(C)C)OC | C5H13NO2
reactant | 4-thiocarbamoyl-piperazine-1-carboxylic acid tert-butyl ester | 6.11 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C(N)=S | C10H19N3O2S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1,1′-thiocarbonyldiimidazole | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | ammonia | N | H3N
product | 4-(Dimethylaminomethylene-thiocarbamoyl)-piperazine-1-carboxylic acid tert-butyl ester | yield 95% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(N=CN(C)C)=S | C13H24N4O2S
